US06864255B2
(4-Chloro-[1,3,5]triazin-2-yl)-(3-[1,2,3]triazol-1-ylmethyl-phenyl)-amine (552.7 mg, 1.921 mmol) is combined with 2-chlorobenzimidazole (381 mg, 2.497 mmol) and K2CO3 (372 mg, 2.689 mmol) in AcCN (10 ml) and heated at 65-75° C. for 2 to 20 h. The reaction mix is cooled to RT and diluted with MeOH and CH2Cl2. The inorganic salts are filtered off and the organic solution is concentrated under reduced pressure. The crude is treated with AcCN (5-8 ml), forming a precipitate. The precipitate is filtered and dried, giving [4-(2-chloro-benzoimidazol-1-yl)-[1,3,5]triazin-2-yl]-(3-[1,2,3]triazol-1-ylmethyl-phenyl)-amine.

reactant | (4-Chloro-[1,3,5]triazin-2-yl)-(3-[1,2,3]triazol-1-ylmethyl-phenyl)-amine | 1.921 mmol, 552.7 mg | ClC1=NC(=NC=N1)NC1=CC(=CC=C1)CN1N=NC=C1 | C12H10ClN7
reactant | 2-chlorobenzimidazole | 2.497 mmol, 381 mg | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | K2CO3 | 2.689 mmol, 372 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | AcCN | 10 ml | C(=O)(C)C#N | C3H3NO
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [4-(2-chloro-benzoimidazol-1-yl)-[1,3,5]triazin-2-yl]-(3-[1,2,3]triazol-1-ylmethyl-phenyl)-amine | ClC1=NC2=C(N1C1=NC(=NC=N1)NC1=CC(=CC=C1)CN1N=NC=C1)C=CC=C2 | C19H14ClN9
